US04977267
4.30 g of 2-chloro-4-pyridinemethanol, 20 ml of dimethoxymethane and 0.57 g of p-toluenesulfonic acid monohydrate were suspended in 200 ml of benzene. The suspension was passed through a Soxhlet extractor containing 25 g of 2 Å molecular sieves, and refluxed for 20 hours. After cooling, the reaction solution was washed with a saturated solution of sodium hydrogen carbonate and water, dried, and concentrated under reduced pressure. The residue was distilled to give 4.0 g (yield 71%) of 2-chloro-4-(methoxymethoxymethyl)-pyridine.

reactant | 2-chloro-4-pyridinemethanol | 4.30 g | ClC1=NC=CC(=C1)CO | C6H6ClNO
reactant | dimethoxymethane | 20 ml | COCOC | C3H8O2
reactant | p-toluenesulfonic acid monohydrate | 0.57 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | benzene | 200 ml | C1=CC=CC=C1 | C6H6
product | 2-chloro-4-(methoxymethoxymethyl)-pyridine | 4.0 g, yield 71% | ClC1=NC=CC(=C1)COCOC | C8H10ClNO2
